US05304560
To a stirred solution of 2,4-dioxo-1H-3,1-benzoxazine (2.00 g) in dry dimethylformamide (20 ml) was added sodium hydride (540 mg, 60% oil suspension) in several portions on an ice-bath. After 30 minutes, ethyl 4-bromocrotonate (3.79 g) was added to the mixture. After stirring for additional 2 hours at room temperature, 28% ammonium hydroxide (7.5 ml) was added on an ice-bath. The mixture was stirred for 30 minutes at the same temperature, neutralized with 1N hydrochloric acid, extracted with ethyl acetate. Combined organic extract was washed in turn with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel (120 g) eluting with ethyl acetate and hexane (1:1 V/V) to give 2-(3-ethoxycarbonyl-2-propenylamino)benzamide (2.53 g) as a solid.

reactant | 2,4-dioxo-1H-3,1-benzoxazine | 2.00 g | O=C1NC2=C(C(O1)=O)C=CC=C2 | C8H5NO3
reactant | sodium hydride | 540 mg | [H-].[Na+]
reactant | ethyl 4-bromocrotonate | 3.79 g | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | ammonium hydroxide | 7.5 ml | [OH-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(3-ethoxycarbonyl-2-propenylamino)benzamide | 2.53 g | C(C)OC(=O)C=CCNC1=C(C(=O)N)C=CC=C1 | C13H16N2O3
